US06172262B2
Triphenylacetic acid sodium salt (4.1).
Triphenylacetic acid (2 g, 6.94 mmol) was dissolved in 5 mL of benzene in a round bottom flask. One drop of DMF was added as a catalyst and the solution was cooled with an ice bath. Once the solution had cooled oxalyl chloride (3 mL, 34.7 mmol) was added dropwise resulting in a vigorously bubbling solution. The reaction was allowed to stir 3 hours and the volatiles were removed under vacuum. The resulting oil was dissolved in 25 mL of THF and the round bottom flask was fitted with an addition funnel. The solution was cooled and a solution of taurine (1.3 g, 11.6 mmol) in 13 mL of 1 N NaOH was mixed with 12 mL of THF and the solution was placed into the addition funnel and added dropwise. The reaction was stirred overnight and the THF was removed by rotary evaporation. The resulting solid was collected and washed with water. The material was then recrystallized from water providing 2.5 g (90%) of light yellow plates. IR (KBr): 3439 (N—H), 2763 (br), 1655 (C═O), 1218. 1H NMR (CDCl3/DMSO-d6, 300 MHz): δ 2.58 (t, J=22, 1H); 2.75 (t, J=22 Hz, 6H); 2.92 (dt, J=18, 22, 1H); 3.48 (s, 6H); 3.562 (dt, J=22,18 Hz, 1H); 7.17-7.30 (m, 16H); 7.42 (t, J=18 Hz, 0.5H)); 13C NMR (CDCl3/DMSO-d6, 75.4 MHz): δ 172.0 (C), 143.5 (C),130.2 (CH), 127.5 (CH), 126.4 (CH), 67.3 (C), 52 (CH2), 49.8 (CH2), 37.67 (CH2), 36.3 (CH2).

reactant | Triphenylacetic acid | 6.94 mmol, 2 g | C1(=CC=CC=C1)C(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16O2
reactant | oxalyl chloride | 34.7 mmol, 3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | taurine | 11.6 mmol, 1.3 g | NCCS(=O)(=O)O | C2H7NO3S
reactant | THF | 12 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1 N, 13 mL | [OH-].[Na+]
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
catalyst | DMF | One drop | CN(C)C=O | C3H7NO
product | Triphenylacetic acid sodium salt | [Na+].C1(=CC=CC=C1)C(C(=O)[O-])(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C20H16O2.Na/c21-19(22)20(16-10-4-1-5-11-16,17-12-6-2-7-13-17)18-14-8-3-9-15-18;/h1-15H,(H,21,22);/q;+1/p-1
